US05342833
A mixture of 57.65 g (131 mmol) (3β,17Z)-(1,1,2-trimethylpropyl)(pregna-5,7,17(20)-trien-3-yloxy)dimethylsilane, 34.11 g (151 mmol) 4-[[(1,1-dimethylethyl)dimethylsilyl]oxy-4-methyl-2-pentynal, and 800 mL hexane was cooled to about -40° C. Then, 185 mL (185 mmol) 1M dimethylaluminum chloride in hexane was added dropwise within 30 min. After the dark brown solution was stirred at -40° C. for 30 min, 400 mL of 5% aqueous sodium phosphate dibasic (w/v) was added dropwise, and the mixture was allowed to warm to 5° C. Then, 300 mL of 3N HCl was added dropwise at a temperature of 0°-5° C. followed by 40 g of Celite. After 15 min, the solid was filtered and washed with 400 mL of hexane. The aqueous layer was extracted twice with hexane. The combined hexane solutions were washed successively with water, 10% aqueous NaHCO3, and brine. The hexane layer was dried and concentrated to give 90 g (overweight) of crude (3β)-25-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]cholesta-5,7,16-trien-23-yn-22-ol (5:1 mixture of epimers at C-22) as an orange oil. This crude material was used for the next step.

reactant | (3β,17Z)-(1,1,2-trimethylpropyl)(pregna-5,7,17(20)-trien-3-yloxy)dimethylsilane | 131 mmol, 57.65 g | CC(C(C)C)(C)[Si](C)(C)O[C@@H]1CC2=CC=C3[C@@H]4CC/C(=C/C)/[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H48OSi
reactant | [(1,1-dimethylethyl)dimethylsilyl]oxy-4-methyl-2-pentynal | CC(C)(C)[Si](OC(C#CC=O)(C)C)(C)C | C12H22O2Si
reactant | dimethylaluminum chloride | 185 mmol, 1M, 185 mL | [Cl-].C[Al+]C
reactant | sodium phosphate dibasic | 400 mL | OP(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 3N, 300 mL | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 800 mL | CCCCCC | C6H14
product | (3β)-25-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-[[dimethyl(1,1,2-trimethylpropyl)silyl]oxy]cholesta-5,7,16-trien-23-yn-22-ol | 90 g | CC(C)(C)[Si](OC(C)(C)C#CC([C@@H](C)C1=CC[C@H]2C3=CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O[Si](C(C(C)C)(C)C)(C)C)O)(C)C | C41H70O3Si2
